US07186718B2
(i) 3-Chloro-N-(2-hydroxyphenyl)propanamide
To a stirred solution of 2-aminophenol (2.18 g, 20 mmol) in acetone (20 mL) a solution of 3-chloropropionyl chloride (1.28 g, 0.87 mL, 10 mmol) in acetone (20 mL) was added dropwise. After the addition was completed, the reaction mixture was stirred at room temperature for 0.5 h and then diluted with water (50 mL). Acetone was removed in vacuo, the precipitate formed was collected by filtration, washed with water, and dried to give the subtitle compound (1.53 g, 77%).

reactant | 2-aminophenol | 20 mmol, 2.18 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 3-chloropropionyl chloride | 10 mmol, 0.87 mL, 1.28 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 50 mL | O | H2O
product | 3-Chloro-N-(2-hydroxyphenyl)propanamide | 1.53 g, 77% | ClCCC(=O)NC1=C(C=CC=C1)O | C9H10ClNO2
